US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-morpholin-4-ylmethyl-thiazol-2-yl)-amine
The title compound was prepared in analogy to example 57 from 17 mg (0.19 mmol) morpholine and 65 mg (0.21 mmol) 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde using a solvent mixture of tetrahydrofurane (1 ml), and methylene chloride (1 ml). The crude product was purified on silica gel with methylene chloride/methanol 9/1 yielding 43 mg (59%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-morpholin-4-ylmethyl-thiazol-2-yl)-amine as a yellow oil. MS ISP (m/e): 386.2 (100) (M+H)+. 1H NMR (CDCl3, 250 MHz): δ (ppm)=7.65 (s, 1H), 7.27 (s, 1H), 7.19 (d, 1H), 7.11 (s, 1H), 6.97 (d, 1H), 6.87 (s, 1H), 3.86 (s, 3H), 3.71 (t, 4H), 3.61 (s, 2H), 2.49 (t, 4H), 2.30 (s, 3H).

reactant | morpholine | 0.19 mmol, 17 mg | N1CCOCC1 | C4H9NO
reactant | 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde | 0.21 mmol, 65 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C=O | C15H14N4O2S
reactant | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-morpholin-4-ylmethyl-thiazol-2-yl)-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)CN1CCOCC1 | C19H23N5O2S
